US08609727B2
Methyl 4-[(4E)-3-(4-cyanobenzyl)-5-(2-{4-[4-(trifluoromethyl)phenoxy]butoxy}phenyl)pent-4-en-1-yl]benzoate
A solution of 392 mg (0.72 mmol) of methyl 4-[(4E)-5-[2-(4-bromobutoxy)phenyl]-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate in 10 ml of dry acetonitrile is mixed with 174 mg (1.08 mmol) of 4-trifluoromethylphenol and 148 mg (1.08 mmol) of anhydrous potassium carbonate and then heated under reflux for 12 h. The mixture is subsequently filtered, and the filtrate is evaporated to dryness. 450 mg (0.61 mmol, purity 86%, 86% of theory) of a yellowish oil are isolated.

reactant | methyl 4-[(4E)-5-[2-(4-bromobutoxy)phenyl]-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate | 0.72 mmol, 392 mg | BrCCCCOC1=C(C=CC=C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)C#N | C31H32BrNO3
reactant | 4-trifluoromethylphenol | 1.08 mmol, 174 mg | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 1.08 mmol, 148 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 4-[(4E)-3-(4-cyanobenzyl)-5-(2-{4-[4-(trifluoromethyl)phenoxy]butoxy}phenyl)pent-4-en-1-yl]benzoate | C(#N)C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)OCCCCOC2=CC=C(C=C2)C(F)(F)F)C=C1 | C38H36F3NO4
